US08629270B2
tert-Butyl N-allyl-N-[2-hydroxyimino-2-(2-thienyl)ethyl]carbamate
A mixture of tert-butyl N-allyl-N-[2-oxo-2-(2-thienyl)ethyl]carbamate (15.2 g, 54.0 mmol), hydroxylamine hydrochloride (5.63 g, 81.0 mmol) and sodium acetate (6.65 g 81.0 mmol) in ethanol (216 mL) is stirred at 70° C. for 18 hours. The reaction is cooled and the solvent removed under reduced pressure. The residue is diluted water (100 mL) and extracted with dichloromethane. The organic layers are combined dried over sodium sulfate, filtered and concentrated under reduced pressure to give the crude title compound as a mixture of E and Z isomers, which is used without further purification (16 g, >98%): ES/MS (m/e): 197 (M+H-100).

reactant | tert-butyl N-allyl-N-[2-oxo-2-(2-thienyl)ethyl]carbamate | 54.0 mmol, 15.2 g | C(C=C)N(C(OC(C)(C)C)=O)CC(C=1SC=CC1)=O | C14H19NO3S
reactant | hydroxylamine hydrochloride | 81.0 mmol, 5.63 g | Cl.NO
reactant | sodium acetate | 81.0 mmol, 6.65 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 216 mL | C(C)O | C2H6O
product | tert-Butyl N-allyl-N-[2-hydroxyimino-2-(2-thienyl)ethyl]carbamate | C(C=C)N(C(OC(C)(C)C)=O)CC(C=1SC=CC1)=NO | C14H20N2O3S
